US05607927
(e) 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylic acid
Using 324 mg of diphenylmethyl 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate, the reaction and purification process of Inventive Example 1 (d) was repeated to obtain 137 mg of the title compound as a sodium salt (yield, 64%).

reactant | diphenylmethyl 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate | 324 mg | NC1=NC(=NS1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)=N/OC | C32H25N7O4S4
reactant | sodium | [Na] | Na
product | 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylic acid | 137 mg | NC1=NC(=NS1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)O)C1=O)=N/OC | C19H15N7O4S4
